US07994185B2
Step B: N-{2-Fluoro-5-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}cyclopropanesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclopropanesulfonamide (80 mg, 0.177 mmol) and 2-aminoethyl-methyl-sulfone (174 mg, 1.413 mmol) the title compound was obtained as a white solid (49 mg, 51% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.70 (s, 1H), 8.13 (d, J=4.8 Hz, 1H), 7.50 (dd, J=7.6, 1.6 Hz, 1H), 7.44 (t, J=4.9 Hz, 1H), 7.25-7.41 (m, 2H), 6.33 (d, J=4.5 Hz, 1H), 3.62 (d, J=5.5 Hz, 2H), 3.32 (br. s., 2H), 3.22-3.27 (m, 1H), 2.97 (s, 3H), 2.52-2.68 (m, 1H), 1.33 (d, J=6.9 Hz, 6H), 0.71-0.96 (m, 4H). MS (ESI): 540.1 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclopropanesulfonamide | 0.177 mmol, 80 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1CC1)F | C19H18ClFN4O2S2
reactant | 2-aminoethyl-methyl-sulfone | 1.413 mmol, 174 mg | NCCS(=O)(=O)C | C3H9NO2S
product | N-{2-Fluoro-5-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}cyclopropanesulfonamide | FC1=C(C=C(C=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCS(=O)(=O)C)C(C)C)NS(=O)(=O)C1CC1 | C22H26FN5O4S3
